US07102042B2
Alkylation of fluorene without a polar aprotic solvent in the presence of aqueous (50%) sodium hydroxide and the phase transfer catalyst triethyl benzylammonium chloride at temperatures of 90 to 100 degrees C. is reported in Makosza, Bulletin L'Academie Polonaise Des Sciences, 1967, 15 165-67. However, the reported reaction produced a mixture of 9-butylfluorene and 9,9-dibutylfluroene. The percentage yield is not indicated. Makosza then states that “[b]etter results were obtained when a small amount of dimethylsulphoxide (DMSO) was added.” Id at 166. The result using DMSO yielded a 65% mixture of 9,9 -dibutylfluorene and 9-butylfluorne. Id. at 167.

reactant | fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 9-butylfluorene | C(CCC)C1C2=CC=CC=C2C=2C=CC=CC12 | C17H18
catalyst | triethyl benzylammonium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | DMSO | CS(=O)C | C2H6OS
product | 9,9 -dibutylfluorene | C(CCC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCC | C21H26
